US08609653B2
2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1-(4-(trifluoromethoxy)benzyl)-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid
The title compound was prepared in a manner similar to that described in Example 27, Step H from methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate and 4-(trifluoromethoxy)benzyl bromide. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.51-7.43 (m, 1 H), 7.33-7.28 (m, 2 H), 7.26-7.15 (m, 3 H), 7.06 (t, J=3.3 Hz, 1 H), 6.94 (dd, J=5.3, 8.4 Hz, 1 H), 6.29 (dd, J=3.5, 11.7 Hz, 1 H), 5.65-5.55 (m, 2 H), 5.53-5.43 (m, 1 H), 4.32-4.26 (m, 2 H), 2.95-2.81 (m, 2 H), 2.78-2.73 (m, 3 H), 2.14-2.05 (m, 2 H), 0.97 (s, 9 H); LC/MS (m/z) ES+=569.19 (M+1).

reactant | methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate | C(C)(C)(C)OC(C(=O)OC)C=1C(=C2C(=NC1C)NC=C2)C=2C=C1CCCOC1=CC2 | C24H28N2O4
reactant | 4-(trifluoromethoxy)benzyl bromide | FC(OC1=CC=C(CBr)C=C1)(F)F | C8H6BrF3O
product | 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1-(4-(trifluoromethoxy)benzyl)-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid | C(C)(C)(C)OC(C(=O)O)C=1C(=C2C(=NC1C)N(C=C2)CC2=CC=C(C=C2)OC(F)(F)F)C=2C=C1CCCOC1=CC2 | C31H31F3N2O5
